US07109197B2
(3-Chloro-phenyl)-{4-[2-(ethyl-methoxymethyl-amino)-pyridin-4-yl]-pyrimidin-2-yl}-amine
Solid potassium-t-butoxide (0.27 g, 2.5 mmol) is added at room temperature to a solution of (3-chloro-phenyl)-[4-(2-ethylamino-pyridin-4-yl)-pyrimidin-2-yl]-amine (0.5 g,1.5 mmol) in dry tetrahydrofurane (15 ml). The resulting solution is cooled to 0° C. and chloromethylmethylether (0.16 g, 2.0 mmol) is added at such a rate that the temperature does not exceed 5° C. After stirring the mixture for 2 hours at room temperature, the solvent is evaporated under reduced pressure and the product is purified by chromatography. The product is obtained in form of slightly yellow crystals, m.p. 114–115° C.

reactant | potassium-t-butoxide | 2.5 mmol, 0.27 g | CC(C)([O-])C.[K+]
reactant | (3-chloro-phenyl)-[4-(2-ethylamino-pyridin-4-yl)-pyrimidin-2-yl]-amine | 1.5 mmol, 0.5 g | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)NCC | C17H16ClN5
reactant | chloromethylmethylether | 2.0 mmol, 0.16 g | ClCOC | C2H5ClO
solvent | tetrahydrofurane | 15 ml | O1CCCC1 | C4H8O
product | (3-Chloro-phenyl)-{4-[2-(ethyl-methoxymethyl-amino)-pyridin-4-yl]-pyrimidin-2-yl}-amine | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)N(COC)CC | C19H20ClN5O
